US07138401B2
Step 7: 6-Chloro-9-(3,4,5-trimethyl-pyridin-2-ylmethyl)-9H-purin-2-ylamine
The compound was obtained by reacting 2-bromomethyl-3,4,5-trimethyl-pyridine with 6-chloro-9H-purin-2-ylamine in the presence of K2CO3 at 5° C. for 0.5 h as described in the general procedure 1.1. HPLC Rt: 3.903 min. 1H-NMR (CDCl3): δ 8.18 (s, 1H), 7.84 (s, 1H), 5.38 (s, 2H), 5.08 (s, 2H), 2.29 (s, 3H), 2.27 (s, 3H), 2.22 (s, 3H).

reactant | 2-bromomethyl-3,4,5-trimethyl-pyridine | BrCC1=NC=C(C(=C1C)C)C | C9H12BrN
reactant | 6-chloro-9H-purin-2-ylamine | ClC1=C2N=CNC2=NC(=N1)N | C5H4ClN5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 6-Chloro-9-(3,4,5-trimethyl-pyridin-2-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC1=NC=C(C(=C1C)C)C | C14H15ClN6
